US08975254B2
2-Methyl-1H-imidazole-4-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide hydrochloride
The title compound was prepared as in Example 12 starting from 2-methyl-1H-imidazole-4-carboxylic acid and 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride. The crude product was purified by flash chromatography using CH—2Cl2/MeOH as a gradient eluent (100:0-97:3). The product was dissolved in DCM, ethyl acetate saturated with hydrogen chloride was added and the precipitated product as a hydrogen chloride salt was filtered. Recrystallization from MeOH/EtOAc. The HCl salt: 1H NMR (400 MHz, MeOH-d4): 2.62 (3H, s), 3.02 (1H, t), 3.69 (1H, t), 6.26 (1H, d), 6.76 (1H, d), 7.49 (1H, distorted d), 6.53 (1H, distorted dd), 7.71 (1H, d), 7.82 (1H, s).

reactant | 2-methyl-1H-imidazole-4-carboxylic acid | CC=1NC=C(N1)C(=O)O | C5H6N2O2
reactant | 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | 2-Methyl-1H-imidazole-4-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1N=C(NC1)C | InChI=1S/C17H15Cl2N3O2.ClH/c1-10-21-9-15(22-10)17(23)20-7-6-12-3-5-16(24-12)11-2-4-13(18)14(19)8-11;/h2-5,8-9H,6-7H2,1H3,(H,20,23)(H,21,22);1H
